US05216159
To a mixture of 4-bromo-1-butene (1.0 g) and magnesium turnings (1.77 g) in dry tetrahydrofuran (10 mL) was added a crystal of iodine and the mixtures was stirred at room temperature until complete reaction had occurred. To this mixture was added 1,4-cyclohexanedione monoethylene ketal (780 mg) in tetrahydrofuran (1 mL) at 0° C. After 1 h at 0° C. and 1 h at room temperature the reaction mixture was diluted with ammonium chloride solution and the product was extracted with ether. After drying over magnesium sulfate the solvent was removed in vacuo and the residue was subjected to flash chromatography with 25% ethyl actetate /hexane as the eluent to afford 4-(3-Butenyl)-4-hydroxy-cyclohexanone ethylene ketal as an oil.

reactant | 4-bromo-1-butene | 1.0 g | BrCCC=C | C4H7Br
reactant | magnesium | 1.77 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1,4-cyclohexanedione monoethylene ketal | 780 mg | C1COC2(CCC(CC2)=O)O1 | C8H12O3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 4-(3-Butenyl)-4-hydroxy-cyclohexanone ethylene ketal | C1COC2(CCC(CC2)(O)CCC=C)O1 | C12H20O3
